US07786165B2
methyl 4′-hydroxy-2′,6,6′-trimethylbiphenyl-3-carboxylate
A mixture of methyl 4′-(benzyloxy)-2′,6,6′-trimethylbiphenyl-3-carboxylate (255 mg, 0.71 mmol), 10% palladium-carbon (50% water-containing product, 25.5 mg) and ethanol (3 mL) was stirred overnight under a hydrogen atmosphere at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was again subjected to the above-mentioned conditions (10% palladium-carbon (50% water-containing product, 127 mg), stirring time 2 hr) to give the title compound (199 mg, yield 100%) as a colorless oil.

reactant | methyl 4′-(benzyloxy)-2′,6,6′-trimethylbiphenyl-3-carboxylate | 0.71 mmol, 255 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C24H24O3
catalyst | palladium-carbon | 25.5 mg | [C].[Pd]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | methyl 4′-hydroxy-2′,6,6′-trimethylbiphenyl-3-carboxylate | 199 mg, yield 100% | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C17H18O3
